US07667041B2
Synthesis of N-indan-1-yl-acrylamide
A THF (10 mL) solution of acrylic acid chloride (2.04 g) was added dropwise to a THF (30 mL) solution of 1-aminoindane (3.00 g) and TEA (2.28 g) under ice-cooling, and the reaction solution was agitated for 20 minutes at the temperature. Water and ethyl acetate were added to this reaction mixture, and the organic layer was partitioned. The organic layer was washed with a saturated saline solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. 2.23 g of the title compound was obtained by adding ether to the residue and filtering insoluble matter.

reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | acrylic acid chloride | 2.04 g | C(C=C)(=O)Cl | C3H3ClO
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | 1-aminoindane | 3.00 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-indan-1-yl-acrylamide | 2.23 g | C1(CCC2=CC=CC=C12)NC(C=C)=O | C12H13NO
